US08067362B2
5-{2-[(2-tert-Butoxycarbonyl-ethyl)-(17-tert-butoxycarbonyl-heptadecanoyl)-amino]-acetylamino}-isophthalic acid mono-tert-butyl ester (214 mg) was dissolved in dry THF and TSTU (0.105 mg) and DIPEA (0.1 ml) was added. The mixture was stirred at room temperature under nitrogen. After 20 h the reaction mixture was concentrated. The residue was redissolved in EtOAc and filteret. The filtrate was extracted with 0.1 N HCl (2×) and brine (1×), dried (Na2SO4) and concentrated to give 5-{2-[(2-tert-Butoxycarbonyl-ethyl)-(17-tert-butoxycarbonyl-heptadecanoyl)-amino]-acetylamino}-isophthalic acid 1-tert-butyl ester 3-(2,5-dioxo-pyrrolidin-1-yl)ester as a yellow sirup in 90% yield (218 mg).

reactant | 5-{2-[(2-tert-Butoxycarbonyl-ethyl)-(17-tert-butoxycarbonyl-heptadecanoyl)-amino]-acetylamino}-isophthalic acid mono-tert-butyl ester | 214 mg | C(C)(C)(C)OC(C1=CC(C(=O)O)=CC(=C1)NC(CN(C(CCCCCCCCCCCCCCCCC(=O)OC(C)(C)C)=O)CCC(=O)OC(C)(C)C)=O)=O | C43H70N2O10
reactant | TSTU | 0.105 mg | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
reactant | DIPEA | 0.1 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | C1CCOC1 | C4H8O
product | 5-{2-[(2-tert-Butoxycarbonyl-ethyl)-(17-tert-butoxycarbonyl-heptadecanoyl)-amino]-acetylamino}-isophthalic acid 1-tert-butyl ester 3-(2,5-dioxo-pyrrolidin-1-yl)ester | 90% yield | O=C1N(C(CC1)=O)OC(C=1C=C(C(=O)OC(C)(C)C)C=C(C1)NC(CN(C(CCCCCCCCCCCCCCCCC(=O)OC(C)(C)C)=O)CCC(=O)OC(C)(C)C)=O)=O | C47H73N3O12
